US04945099
5,5'-[(4-Acetyl-6-methoxymethyl-1,3-phenylene)bis(oxy)]bis[pentanenitrile]
A mixture of 688 mg of 5,5'-[(4-acetyl-6-hydroxymethyl-1,3-phenylene)bis(oxy)]bis[pentanenitrile] in 15 ml of dimethylformamide was added to a suspension of 0.184 g of a 50 % oil dispersion of sodium hydride and 0.62 ml of methyl iodide in 45 ml of dimethylformamide at 0° C. The reaction was allowed to come to room temperature and stirred overnight. The reaction mixture was partitioned between ethyl acetate and dilute hydrochloric acid to which sodium chloride had been added. The organic layer was separated, dried over sodium sulfate, and concentrated in vacuo. The resulting residue was purified by high pressure liquid chromatography over silica gel eluting with a 0-70% ethyl acetate in hexane gradient to provide 110 mg of the desired title product. NMR, MS.

reactant | 5,5'-[(4-acetyl-6-hydroxymethyl-1,3-phenylene)bis(oxy)]bis[pentanenitrile] | 688 mg | C(C)(=O)C1=C(C=C(C(=C1)CO)OCCCCC#N)OCCCCC#N | C19H24N2O4
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 0.62 ml | CI | CH3I
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 5,5'-[(4-Acetyl-6-methoxymethyl-1,3-phenylene)bis(oxy)]bis[pentanenitrile] | 110 mg | C(C)(=O)C1=C(C=C(C(=C1)COC)OCCCCC#N)OCCCCC#N | C20H26N2O4
